US04061655
C. 9-butyl-3,6-dicyanocarbazole
A slurry of sodium hydride (50% in oil, 480 mg) in 50 ml of anhydrous dimethylformamide is treated with 3,6-dicyanocarbazole (2.17 g) and heated at 110° C for two hours. The reaction mixture is then treated dropwise with butylbromide (1.37 g) and heated for about 16 hours at 110° C. The reaction mixture is poured into water and the resultant precipitate collected by filtration. The solid is dissolved in dichloromethane and filtered through 200 ml of silica gel to yield 2.22 g of the title compound, melting point 215°-217°C.

reactant | sodium hydride | 480 mg | [H-].[Na+]
reactant | 3,6-dicyanocarbazole | 2.17 g | C(#N)C=1C=CC=2NC3=CC=C(C=C3C2C1)C#N | C14H7N3
reactant | butylbromide | 1.37 g | C(CCC)Br | C4H9Br
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 9-butyl-3,6-dicyanocarbazole | 2.22 g | C(CCC)N1C2=CC=C(C=C2C=2C=C(C=CC12)C#N)C#N | C18H15N3
